US09085586B2
Into a 100-mL round-bottom flask containing a solution of ethyl 4-hydroxybenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate (2.2 g, 4.01 mmol, 1.00 equiv) in 1,4-dioxane (60 mL) was added POCl3 (30 mL) at room temperature under nitrogen. The resulting solution was stirred for 2 h at 90° C. and concentrated under vacuum. The residue dissolved in DCM and poured into a cooled saturated aqueous Na2CO3, extracted with 3×100 mL of dichloromethane. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:9) to give 1.8 g (77%) of the corresponding ethyl 4-chlorobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate as a yellow solid.

reactant | ethyl 4-hydroxybenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate | 4.01 mmol, 2.2 g, 1.00 equiv | OC=1C2=C(N=CN1)SC1=C2C=C(C=C1)C(=O)OCC | C13H10N2O3S
reactant | POCl3 | 30 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | 1,4-dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | ethyl 4-chlorobenzo[4,5]thieno[2,3-d]pyrimidine-6-carboxylate | 1.8 g, 77% | ClC=1C2=C(N=CN1)SC1=C2C=C(C=C1)C(=O)OCC | C13H9ClN2O2S
